* C:\Users\ros\Desktop\Anura-Headphones\Spice_Simulations\Analog_ANC.asc
V1 VDD 0 5
V2 0 VSS 5
V3 noise N001 SINE(0 100m 60)
V4 N001 N002 SINE(0 10m 1k)
V5 N002 N003 SINE(0 55m 5k)
V6 N003 0 SINE(0 32m 500)
X§U1 NC_01 NC_02 VDD VSS NC_03 LF411
* Mic-PreAmp
.tran 5
.inc LF411.MOD
.backanno
.end
